US08957073B2
(R- & S-)-2-(3-(3-(3-(pyridin-3-yl)pyrrolidin-1-yl)pyrazin-2-yl)azetidin-1-yl)quinoline
To a 3 mL vial was added 2-(3-(3-chloropyrazin-2-yl)azetidin-1-yl)quinoline (0.04000 g, 0.135 mmol), 3-(pyrrolidin-3-yl)pyridine (commerically available at Array Biopharma, 0.040 g, 0.270 mmol), and triethylamine (commerically available at Sigma Aldrich, 0.038 ml, 0.270 mmol) in DMSO (Solvent Volume: 0.449 ml) and the reaction was stirred at 110° C. overnight. Upon completion, the reaction was filtered into a 24 well plate and purified by reverse phase purification using the following conditions: (Instrumentation: MS—Waters SQ; UV—Waters 2487 or Waters PD; Solvents: A: Water w/0.1% NH4OH B: Acetonitrile w/0.1% NH4OH; Column: Phenomenex Gemini-NX C18 110A 5 um 21×100; Flow Rate: 44 mL/min. 10 min Method, variable gradient over 8 mins.)

reactant | 2-(3-(3-chloropyrazin-2-yl)azetidin-1-yl)quinoline | 0.135 mmol, 0.04000 g | ClC=1C(=NC=CN1)C1CN(C1)C1=NC2=CC=CC=C2C=C1 | C16H13ClN4
reactant | 3-(pyrrolidin-3-yl)pyridine | N1CC(CC1)C=1C=NC=CC1 | C9H12N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMSO | 0.449 ml | CS(=O)C | C2H6OS
product | 2-(3-(3-(3-(pyridin-3-yl)pyrrolidin-1-yl)pyrazin-2-yl)azetidin-1-yl)quinoline | N1=CC(=CC=C1)C1CN(CC1)C=1C(=NC=CN1)C1CN(C1)C1=NC2=CC=CC=C2C=C1 | C25H24N6
